US07186734B2
To a solution of benzamidine hydrochloride (31.22 g, 0.2 mmol, 1.17 eq.) in 250 ml of DMF is added potassium carbonate (69 g, 0.5 mol). 2-bromo-4′-methoxyacetophnone is dissolved in 200 ml of DMF and added to the reaction flask dropwise at 55° C. After the addition, the reaction mixture is stirred at 60° C. for 3 h, then cooled to room temperature and poured into 1000 ml of ice-water, the mixture is extracted with ethyl acetate (150 ml×4), washed with water and brine, dried over sodium sulfate, purified through flash chromatography to give 30 g of 2-phenyl-4-(4-methoxyphenyl)imidazole. 1H NMR (400 MHz, CDCl3) δ 7.86 (2H, d, J=6.8 Hz), 7.43˜7.25 (5H, m), 6.93(2H, d, J=8.8 Hz), 3.83 (3H, s); MS (+VE) m/z 251 (M+1).

reactant | benzamidine hydrochloride | 0.2 mmol, 31.22 g, 1.17 eq. | Cl.C(C1=CC=CC=C1)(=N)N
reactant | potassium carbonate | 0.5 mol, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 250 ml | CN(C)C=O | C3H7NO
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-phenyl-4-(4-methoxyphenyl)imidazole | 30 g | C1(=CC=CC=C1)C=1NC=C(N1)C1=CC=C(C=C1)OC | C16H14N2O
